US05250669
(1) Synthesis of 6-phenyl-2,4-hexanedione
Sodium (23 g) was added in small portions to a solution of 4-phenyl-2-butanone (148 g, 1 mol) and ethyl acetate (264 g) at 20°-60° C. with stirring under nitrogen and then the reaction mixture was refluxed for 2 h with stirring. After cooling, the mixture was taken up in H2O (1l), neutralized with hydrochloric acid, the organic layer was separated, washed with H2O, dried over anhydrous Na2SO4 and then evaporated. The resultant residue (171 g) was distilled under reduced pressure to give the title compound as a colorless oil; yield: 73.4 g; bp 128°-133° C./3-4 mmHg (Lit. bp 133°-136° C./5 mmHg; C. R. Hauser, T. M. Harris, J. Am. Chem. Soc., 80, 6360 (1958)).

reactant | Sodium | 23 g | [Na] | Na
reactant | 4-phenyl-2-butanone | 1 mol, 148 g | C1(=CC=CC=C1)CCC(C)=O | C10H12O
reactant | ethyl acetate | 264 g | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | H2O | O | H2O
product | 6-phenyl-2,4-hexanedione | C1(=CC=CC=C1)CCC(CC(C)=O)=O | C12H14O2
